US07459448B2
4-(10-Fluoro-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepin-2-ylamino)-benzoic acid (I-5)
In a manner similar to that described for Method H, 4-dimethylaminomethylene-7-fluoro-3,4-dihydro-1H-benzo[b]azepine-2,5-dione (v-f) and 4-guanidinobenzoic acid were converted to I-5 (98%): HRMS Calcd. for C19H13FN4O3: 365.1049, Found 365.1069.

reactant | 4-dimethylaminomethylene-7-fluoro-3,4-dihydro-1H-benzo[b]azepine-2,5-dione | CN(C)C=C1C(C2=C(NC(C1)=O)C=CC(=C2)F)=O | C13H13FN2O2
reactant | 4-guanidinobenzoic acid | N(C(=N)N)C1=CC=C(C(=O)O)C=C1 | C8H9N3O2
product | 4-(10-Fluoro-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepin-2-ylamino)-benzoic acid | FC1=CC2=C(NC(CC3=C2N=C(N=C3)NC3=CC=C(C(=O)O)C=C3)=O)C=C1 | C19H13FN4O3
